US04031221
86.4 g of 1-benzyl-4-piperidinol in 200 ml. and dimethylformamide are added dropwise to a stirred suspension of 34.7 g of a 50% oil dispersion of sodium hydride in 900 ml. of dimethylformamide at 60°-70° C. When no more hydrogen gas is liberated, a mixture of 68.4 g of p-difluorobenzene in 200 ml. of dimethylformamide is added slowly, and the temperature is raised to 80° C. Stirring and heating is continued for 48 hours, the reaction is cooled, poured into 2 l. of water, and the aqueous suspension is extracted with benzene. The benzene extracts are dried and the benzene is removed under reduced pressure, leaving a thick brown oil. The oil solidifies on standing. The solid is dissolved in 95% ethanol, the solution is filtered and the solvent is removed from the filtrate, leaving a yellow oil. The oil is dissolved in absolute ethanol, the solution is stirred, and saturated ethereal-HCl is added. A resultant hydrochloride salt precipitates out of solution and is collected and dried. The salt is recrystallized from an ethanol and ether mixture to give 1-benzyl-4-(p-fluorophenoxy)piperidine hydrochloride.

reactant | 1-benzyl-4-piperidinol | 86.4 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | p-difluorobenzene | 68.4 g | FC1=CC=C(C=C1)F | C6H4F2
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-benzyl-4-(p-fluorophenoxy)piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=C(C=C1)F | InChI=1S/C18H20FNO.ClH/c19-16-6-8-17(9-7-16)21-18-10-12-20(13-11-18)14-15-4-2-1-3-5-15;/h1-9,18H,10-14H2;1H
